US07915443B2
(S)-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)-N-[oxido(2-oxo-2-pyrrolidin-1-ylethyl)phenyl--sulfanylidene]nicotinamide
In a manner similar to that described in Example 534, (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate and pyrrolidine were reacted to give the title compound.

reactant | (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=CC=C1
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)-N-[oxido(2-oxo-2-pyrrolidin-1-ylethyl)phenyl--sulfanylidene]nicotinamide | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@@](C2=CC=CC=C2)(CC(N2CCCC2)=O)=O)C1 | C32H28N4O5S
